US07737166B2
4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N,5-dimethyl-6-phenyl-N-(2-phenylethyl)-1,3-benzoxazole-2-carboxamide (#46)
Under nitrogen atmosphere, a dimethyl sulfoxide (3 ml) solution of (3S)-3-(dimethylamino)pyrrolidine (110 μl, 871 μmol) was added at 150° C. to a dimethyl sulfoxide (12 ml) solution of 4-cyano-7-fluoro-N,5-dimethyl-6-phenyl-N-(2-phenylethyl)-1,3-benzoxazole-2-carboxamide (I-120) (300 mg, 726 μmol) and triethylamine (132 μl, 944 μmol), followed by stirring at the same temperature for 70 minutes. After cooling, saturated brine was added to the reaction liquid, and the reaction liquid was extracted with ethyl acetate. Next, the combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and the eluate with dichloromethane/methanol (20:1, v/v) gave a crude product of the entitled compound as a solid, and the solid was suspended and washed in diisopropyl ether to obtain the entitled compound (161 mg, 44%) as a pale yellow solid.

reactant | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
reactant | (3S)-3-(dimethylamino)pyrrolidine | 871 μmol, 110 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | dimethyl sulfoxide | 12 ml | CS(=O)C | C2H6OS
reactant | 4-cyano-7-fluoro-N,5-dimethyl-6-phenyl-N-(2-phenylethyl)-1,3-benzoxazole-2-carboxamide | 726 μmol, 300 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(CCC2=CC=CC=C2)C)F)C2=CC=CC=C2)C | C25H20FN3O2
reactant | triethylamine | 944 μmol, 132 μl | C(C)N(CC)CC | C6H15N
solvent | brine | [Cl-].[Na+].O
product | 4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N,5-dimethyl-6-phenyl-N-(2-phenylethyl)-1,3-benzoxazole-2-carboxamide | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(CCC2=CC=CC=C2)C)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C31H33N5O2
